US09102591B2
2,3-dichloro-N-(2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide
From 2,3-dichlorobenzoic acid and 2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine. LCMS (MH+): m/z=482.1, tR (minutes, Method G)=2.76

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine | FC1(CCC(CC1)C(CN)C=1C=NC(=NC1)C(F)(F)F)F | C13H16F5N3
product | 2,3-dichloro-N-(2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)C(F)(F)F)C2CCC(CC2)(F)F)C=CC=C1Cl | C20H18Cl2F5N3O
